US05453422
3-(N-ethyl-N-methyl-aminomethyl)-3-hydroxy-pyrrolidine
1.8 g (93 mmol) 1-benzyl-3-ethylaminomethyl-3-hydroxy-pyrrolidine (according to example Ca) are dissolved in a mixture of 9.5 g formic acid and 8.5 g 37% proof aqueous formaldehyde solution. The mixture is stirred at 80° C. for 4 hours. The solvents are removed in vacuo, the residue is taken up in water, and the pH is adjusted alkaline with potassium carbonate. The reaction mixture is then extracted with chloroforme, and the organic phase is dried with potassium carbonate. After filtration the organic solvent is removed in vacuo and the residue is destilled.

reactant | 1-benzyl-3-ethylaminomethyl-3-hydroxy-pyrrolidine | 93 mmol, 1.8 g | C(C1=CC=CC=C1)N1CC(CC1)(O)CNCC | C14H22N2O
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | 9.5 g | C(=O)O | CH2O2
product | 3-(N-ethyl-N-methyl-aminomethyl)-3-hydroxy-pyrrolidine | C(C)N(C)CC1(CNCC1)O | C8H18N2O
